US05051413
2.0 g of E-2-amino-5-phosphono-3-pentenoic acid are suspended in 30 ml of n-octanol and the suspension is saturated with hydrogen chloride gas for 4 hours at 70°. The mixture is concentrated in vacuo at 70° to half its volume, 50 ml of diethyl ether and 15 ml of propylene oxide are added and the whole is filtered. Recrystallisation from water/acetone 1:1 yields E-2-amino-5-phosphono-3-pentenoic acid octylester, m.p. 161°-162°.

reactant | E-2-amino-5-phosphono-3-pentenoic acid | 2.0 g | NC(C(=O)O)\C=C\CP(=O)(O)O | C5H10NO5P
reactant | hydrogen chloride | Cl | ClH
reactant | n-octanol | 30 ml | C(CCCCCCC)O | C8H18O
product | E-2-amino-5-phosphono-3-pentenoic acid octylester | C(CCCCCCC)OC(C(\C=C\CP(=O)(O)O)N)=O | C13H26NO5P
